US07470679B2
(S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one
(S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (44 mg, 0.088 mmol) was dissolved in N,N-dimethylformamide (1.5 mL). N,N-Diisopropylethylamine (70 μl, 0.402 mmol) was added to the mixture followed by TBTU (31.5 mg, 0.098 mmol). 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride (25.7 mg, 0.097 mmol) was added to the mixture. Reaction stirred at room temperature for 1.5 hours. Reaction was quenched with 50% acetonitrile-water. Mixture was purified by reverse phase prep HPLC (acetonitrile-water-trifluoroacetic acid). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as light tan solid in 51% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.91 (s, 1H) 11.78 (s, 1H) 7.71 (s, 1H) 7.62 (d, J=7.93 Hz, 1H) 7.48 (s, 1H) 7.44 (t, J=7.63 Hz, 1H) 7.28 (d, J=8.24 Hz, 1H)7.15 (t, J=7.48 Hz, 1H) 5.58 (d, J=17.70 Hz, 1H) 5.40 (d, J=17.40 Hz, 1H) 4.55 (d, J=11.90 Hz, 1H) 4.29-4.46 (m, 1H) 4.07-4.23 (m, 2H) 3.91-4.05 (m, 1H) 3.11-3.24 (m, 2H) 2.95-3.09 (m, 2H) 2.82-2.95 (m, 1H) 2.64 (t, J=13.12 Hz, 1H) 2.43 (dd, J=16.48, 4.27 Hz, 1H) 1.89-1.96 (m, 1H) 1.78-1.88 (m, 1H) 1.47-1.64 (m, 1H) 1.30-1.46 (m, 1H). High resolution MS m/e (M+H)+=708.0445.

reactant | (S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.088 mmol, 44 mg | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CC(F)(F)F)Br | C15H12Br2F3N3O3
reactant | N,N-Diisopropylethylamine | 0.402 mmol, 70 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.098 mmol, 31.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 0.097 mmol, 25.7 mg | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 51% yield | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(N3CCC(CC3)C=3C(NC1=CC=CC=C1C3)=O)=O)=O)CC(F)(F)F)Br | C29H26Br2F3N5O3
